US05274047
The results of the flux and retention tests of 1.0%, by weight, solutions of n-docosane in n-hexane and in toluene and of a 1.0%, by weight, solution of PEG 300 in methanol, evaluated at room temperature and a pressure of 40 bars, are mentioned in Table C.

reactant | n-hexane | CCCCCC | C6H14
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | methanol | CO | CH4O
product | n-docosane | CCCCCCCCCCCCCCCCCCCCCC | C22H46
